US05686463
(b) 1-Azabicyclo[3.2.1]octan-6-one
A mixture of ethanol (9 ml) and toluene (10 ml) was added dropwise to a rapidly stirred suspension of potassium (6 g) in toluene (30 ml). at 120° C. After all the ethanol had been added the reaction mixture was stirred at 120° C. for 1 hr before adding a solution of 1-carboethoxymethyl-3-carboethoxy piperidine (15 g, 61.7 mmol) in toluene (40 ml) dropwise at 140° C. The reaction mixture was heated for 3 hr at 140° C. before adding concentrated hydrochloric acid (3×50 ml), and refluxing the aqueous phase for 16 hr. The solvent was removed in vacuo, water (100 ml) added and the solution neutralised with potassium carbonate. The solution was extracted with dichloromethane (3×150 ml, the combined extracts washed with saturated sodium chloride solution, dried (Na2SO4) and evaporated. The crude product was chromatographed through slicia-gel, eluting with dichloromethane/methanol (90:10) to give 1-azabicyclo[3:2:1]octan-6-one as a crystalline solid (1.1 g): mp. 83°-87° (hexane): m/e 125 (M+): δ(360 MHz, CDCl3) 1.30-2.40 (5H, m, 2×CH2, and CH): 3.12 (2H, s, CH2 --N); 2.60-3.60 (4H, m, 2×CH2 --N).

reactant | potassium | 6 g | [K] | K
reactant | 1-carboethoxymethyl-3-carboethoxy piperidine | 61.7 mmol, 15 g | C(=O)(OCC)CN1CC(CCC1)C(=O)OCC | C12H21NO4
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | octan-6-one | 1.1 g | CCCCCC(CC)=O | C8H16O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 1-Azabicyclo[3.2.1]octan-6-one | N12CCCC(C(C1)=O)C2 | C7H11NO
